US07402608B2
To a solution of cis-3-[(4-Hydroxy-4-methyl-cyclohexyl)-(4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (70.0 mg, 0.149 mmol, 1 eq) in tetrahydrofuran (1 mL), water (0.5 mL) and methanol (0.5 mL) was added lithium hydroxide (19.0 mg, 0.447 mmol, 3 eq). The resulting mixture was stirred 3 h at room temperature and was then extracted with ether (2×10 mL). Aqueous phase was separated and combined organic phases were discarded. Aqueous phase was acidified to pH 1 and extracted with dichloromethane (3×30 mL). Organic phases of dichloromethane were combined, dried over sodium sulfate and concentrated. The crude was purified by chromatography (10% methanol/dichloromethane) to give 50 mg (74%) of cis-3-[(4-Hydroxy-4-methyl-cyclohexyl)-(4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid. NMR 1H (CDCl3, 400 MHz): 7.60 ppm (d, 2H); 7.39 ppm (m, 3H); 7.03 ppm (s, 1H); 4.51 ppm (bs, 2H); 2.00 ppm (m, 1H); 1.80-1.20 ppm (m, 15H); 1.12 ppm (s, 3H); 0.71 ppm (d, 3H); 0.60 ppm (m, 2H).

reactant | cis-3-[(4-Hydroxy-4-methyl-cyclohexyl)-(4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.149 mmol, 70.0 mg, 1 eq | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@@H](CC1)C)C1CCC(CC1)(C)O)C1=CC=CC=C1 | C27H35NO4S
reactant | lithium hydroxide | 0.447 mmol, 19.0 mg, 3 eq | [OH-].[Li+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | methanol | 0.5 mL | CO | CH4O
product | cis-3-[(4-Hydroxy-4-methyl-cyclohexyl)-(4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid | 50 mg, 74% | OC1(CCC(CC1)N(C1=C(SC(=C1)C1=CC=CC=C1)C(=O)O)C(=O)[C@@H]1CC[C@@H](CC1)C)C | C26H33NO4S
